US07056932B2
(RS)-N-(2-Amino-4-cyano-benzyl)-2-ethoxy-2-(4-methyl-1-oxo-1,3-dihydro-isoindol-2-yl)-acetamide (0.101 g) was treated in MeOH (2 ml) successively with 2-fluoro-benzaldehyde (99 mg) and 1 ml of a MeOH-solution containing scrupulously dried ZnCl2 (145 mg) and NaCNBH3 (50 mg). The reaction mixture was stirred for 16 h at 50–55° C., poured onto crashed ice and extracted two times with ethyl acetate. The combined organic layers were washed with water and brine and dried over magnesium sulfate. The solvent was removed under reduced pressure and the residue purified by column chromatography (silica gel, hexane/AcOEt=1/1) to give (RS)-N-[4-cyano-2-(2-fluoro-benzylamino)-benzyl]-2-ethoxy-2-(4-methyl-1-oxo-1,3-dihydro-isoindol-2-yl)-acetamide (111 mg) as colorless oil, MS 487.4 ([M+H]+).

reactant | (RS)-N-(2-Amino-4-cyano-benzyl)-2-ethoxy-2-(4-methyl-1-oxo-1,3-dihydro-isoindol-2-yl)-acetamide | 0.101 g | NC1=C(CNC(C(N2C(C3=CC=CC(=C3C2)C)=O)OCC)=O)C=CC(=C1)C#N | C21H22N4O3
reactant | 2-fluoro-benzaldehyde | 99 mg | FC1=C(C=O)C=CC=C1 | C7H5FO
reactant | NaCNBH3 | 50 mg | [BH3-]C#N.[Na+]
solvent | MeOH | 2 ml | CO | CH4O
catalyst | ZnCl2 | 145 mg | [Cl-].[Cl-].[Zn+2]
solvent | MeOH | 1 ml | CO | CH4O
product | (RS)-N-[4-cyano-2-(2-fluoro-benzylamino)-benzyl]-2-ethoxy-2-(4-methyl-1-oxo-1,3-dihydro-isoindol-2-yl)-acetamide | 111 mg | C(#N)C1=CC(=C(CNC(C(N2C(C3=CC=CC(=C3C2)C)=O)OCC)=O)C=C1)NCC1=C(C=CC=C1)F | C28H27FN4O3
